US04780477
By using 1-[2-(N-isopropylbenzylamino)ethyl]isatin and semicarbazide hydrochloride, a method analogous to that described in Example 6 was carried out to obtain (E)-1-[2-(N-isopropylbenzylamino)ethyl]isatin 3-semicarbazone having a melting point of 193°-194° C. (yield: 52.7%, recrystallizing solvent: ethanol).

reactant | 1-[2-(N-isopropylbenzylamino)ethyl]isatin | C(C)(C)N(CCN1C(=O)C(=O)C2=CC=CC=C12)CC1=CC=CC=C1 | C20H22N2O2
reactant | semicarbazide hydrochloride | Cl.NNC(=O)N
product | (E)-1-[2-(N-isopropylbenzylamino)ethyl]isatin 3-semicarbazone | yield: 52.7% | C(C)(C)N(CCN1C(=O)/C(/C2=CC=CC=C12)=N/NC(=O)N)CC1=CC=CC=C1 | C21H25N5O2
